US03933804
2.21 g (0.01 mol) of 6-ethoxy-1-bromo-3-methyl-2-hexene are added at 5° and while stirring to 1.38 g (0.01 mol) of 3,4-methylendioxyphenol and 0.56 g (0.01 mol) of potassium hydroxide in 50 cc of 1,2-dimethoxyethane. After stirring at 5° for 2 hours the mixture is stirred at 20°-25° during the course of 60 hours, is subsequently filtered and the filtrate is evaporated at reduced pressure. The residue is taken up in ether, is washed with water, dried with sodium sulphate, and the ether is distilled off. After chromatography of the residue on silica gel with hexane/ethyl acetate 9 : 1, 5-(6-ethoxy-3-methyl-2-hexenyloxy)-1,3-benzodioxol is obtained as colourless oil. nD20 = 1.5192.

reactant | 6-ethoxy-1-bromo-3-methyl-2-hexene | 0.01 mol, 2.21 g | C(C)OCCCC(=CCBr)C | C9H17BrO
reactant | 3,4-methylendioxyphenol | 0.01 mol, 1.38 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | potassium hydroxide | 0.01 mol, 0.56 g | [OH-].[K+]
solvent | 1,2-dimethoxyethane | 50 cc | COCCOC | C4H10O2
product | 5-(6-ethoxy-3-methyl-2-hexenyloxy)-1,3-benzodioxol | C(C)OCCCC(=CCOC1=CC2=C(OCO2)C=C1)C | C16H22O4
